US05731315
A. 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(5-cyano-2-hydroxybenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
The title compound is prepared from 4-hydroxy-3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride as described in EXAMPLE 17, Part F using 5-chlorothieno[3,2-b]pyridine-2-sulfonyl chloride in place of 4,6-dichlorobenzo[b]thiophene-2-sulfonyl chloride. The product is obtained as a white solid.

reactant | 4-hydroxy-3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride | Cl.OC1=C(C=C(C#N)C=C1)CN1C([C@H](CC1)N)=O
reactant | 5-chlorothieno[3,2-b]pyridine-2-sulfonyl chloride | ClC1=CC=C2C(=N1)C=C(S2)S(=O)(=O)Cl | C7H3Cl2NO2S2
product | 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(5-cyano-2-hydroxybenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | C(#N)C=1C=CC(=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=NC(=CC=C3S2)Cl)=O)C1)O | C19H15ClN4O4S2
